US05151423
A mixture of 2.00 g (5.39 mmol) of 6-methoxy-8-chloro-11-(1-methyl-4-piperidinyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol in 87% aqueous sulfuric acid was stirred at room temperature and under an argon atmosphere. After 30 min 30 mL of trifluoromethanesulfonic acid was added and the mixture was heated to 115° C. One hour later the mixture was cooled to room temperature, poured onto ice, basified with 5% aqueous sodium hydroxide and extracted with methylene chloride (2×). The combined organic portions were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give 1.41 g of 8-chloro-5,11-dihydro-11-(1-methyl-4-piperidinylidene)-6H-benzo[5,6]cyclohepta-[1,2-b]pyridin-6-one. The material was recrystallized from ethyl acetate/isopropyl ether to give 1.12 g (61%) of the ketone as a granular solid: mp 181°-183° C.

reactant | 6-methoxy-8-chloro-11-(1-methyl-4-piperidinyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | 5.39 mmol, 2.00 g | COC1=CC=2C(=NC=CC2)C(C2=C1C=C(C=C2)Cl)(O)C2CCN(CC2)C | C21H23ClN2O2
reactant | trifluoromethanesulfonic acid | 30 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-chloro-5,11-dihydro-11-(1-methyl-4-piperidinylidene)-6H-benzo[5,6]cyclohepta-[1,2-b]pyridin-6-one | 1.41 g | ClC=1C=CC2=C(C(CC=3C(=NC=CC3)C2=C2CCN(CC2)C)=O)C1 | C20H19ClN2O
